US08877780B2
A stirred mixture of 5-ethylsulfanyl-pyridine-2-carboxylic acid (0.48 g, 2.60 mmol) and CDI (0.44 g, 2.70 mmol) in N,N-dimethylformamide (20 mL) was heated to 40° C. under nitrogen. After 2 h, 3-(5-aminomethyl-1-oxo-1,3-dihydro-isoindol-2-yl)-piperidine-2,6-dione methane sulfonate (1.0 g, 2.60 mmol) was added and the mixture was heated at 40° C. for 2 h. The mixture was cooled to rt and EtOAc (75 mL) was added. The organic layer was washed with sat. aq. NaHCO3 (3×75 mL) then concentrated in vacuo. The crude residue was purified by column chromatography (hexanes/EtOAc, gradient, product eluted at ˜85% EtOAc). The product fractions were combined and concentrated to give 5-ethylsulfanyl-pyridine-2-carboxylic acid [2-(2,6-dioxo-piperidin-3-yl)-1,3-dioxo-2,3-dihydro-1H-isoindol-5-ylmethyl]-amide as a white solid (0.65 g, 60% yield): HPLC: Waters Symmetry C18, 5 μm, 3.9×150 mm, 1 mL/min, 240 nm, 50/50 CH3CN/0.1% H3PO4, 7.53 min (97.70%); mp: 198-200° C.; 1H NMR (DMSO-d6) δ 1.28 (t, J=7.4 Hz, 3H), 2.00-2.16 (m, 1H), 2.53-2.67 (m, 2H), 2.79-3.02 (m, 1H), 3.13 (q, J=7.2 Hz, 2H), 4.65 (d, J=6.4 Hz, 2H), 5.14 (dd, J=5.4, 12.9 Hz, 1H), 7.72-8.06 (m, 5H), 8.54 (d, J=1.5 Hz, 1H), 9.53 (t, J=6.3 Hz, 1H), 11.12 (s, 1H); 13C NMR (DMSO-d6) δ 13.84, 21.99, 25.27, 30.93, 42.36, 48.99, 122.08, 122.18, 123.51, 129.78, 131.56, 133.56, 135.42, 137.99, 146.30, 146.37, 147.54, 164.07, 166.99, 167.13, 169.80, 172.72; LCMS: MH=453; Anal Calcd for C22H20N4O5S: C, 58.40; H, 4.46; N, 12.38. Found: C, 58.27; H, 4.35; N, 12.30.

reactant | 5-ethylsulfanyl-pyridine-2-carboxylic acid | 2.60 mmol, 0.48 g | C(C)SC=1C=CC(=NC1)C(=O)O | C8H9NO2S
reactant | CDI | 2.70 mmol, 0.44 g | C1=CN(C=N1)C(=O)N2C=CN=C2 | C7H6N4O
reactant | 3-(5-aminomethyl-1-oxo-1,3-dihydro-isoindol-2-yl)-piperidine-2,6-dione methane sulfonate | 2.60 mmol, 1.0 g | CS(=O)(=O)O.NCC=1C=C2CN(C(C2=CC1)=O)C1C(NC(CC1)=O)=O
reactant | EtOAc | 75 mL | CCOC(=O)C | C4H8O2
solvent | N,N-dimethylformamide | 20 mL | CN(C=O)C | C3H7NO
product | 5-ethylsulfanyl-pyridine-2-carboxylic acid [2-(2,6-dioxo-piperidin-3-yl)-1,3-dioxo-2,3-dihydro-1H-isoindol-5-ylmethyl]-amide | 0.65 g, 60% yield | O=C1NC(CCC1N1C(C2=CC=C(C=C2C1=O)CNC(=O)C1=NC=C(C=C1)SCC)=O)=O | C22H20N4O5S
